US09024027B2
A solution of 5-methoxyindoline-2,3-dione (0.5 g, 2.82 mmol) in dry DMF (7 ml), under nitrogen atmosphere, was cooled to 0° C., and sodium hydride (60% w/w dispersion in mineral oil, 0.135 g, 3.39 mmol) was added portionwise. The mixture was stirred at 0° C. for 1 hour, and tert-butyl 2-bromoacetate (0.458 ml, 3.10 mmol) was added dropwise. The reaction was then stirred at room temperature overnight. The solvent was evaporated, ethyl acetate was added, and the mixture was washed with brine. The organic layer was dried over Na2SO4, filtered and evaporated. The crude was purified by flash chromatography on silica gel (ethyl acetate:petroleum ether=8:2) to afford tert-butyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate (0.650 g, 2.231 mmol, 79% yield). MS/ESI+ 235.8 [MH-tert-Bu]+.

reactant | 5-methoxyindoline-2,3-dione | 2.82 mmol, 0.5 g | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | sodium hydride | 3.39 mmol, 0.135 g | [H-].[Na+]
reactant | tert-butyl 2-bromoacetate | 3.10 mmol, 0.458 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate | 2.231 mmol, 0.650 g, 79% yield | COC=1C=C2C(C(N(C2=CC1)CC(=O)OC(C)(C)C)=O)=O | C15H17NO5
